US06255306B1
1-(3-Formyl-2-methyl-1H-indol-4-yl)-4-methylpiperazine
To a stirred solution of 4-methyl-1-(2-methyl-1H-indol-4-yl)piperazine (0.247 g, 1.08 mmol) in anhydrous N,N-dimethylformamide (1 mL) at 0° C. was added dropwise a solution of phorsphorus oxychloride (0.16 g, 1.04 mmol) in anhydrous N,N-dimethylformamide (1 mL). The resulting reaction solution was stirred at room temperature under nitrogen for 2 hours. An aqueous solution of sodium hydroxide (10% by weight, 3 mL) was then added, and the resulting solution was stirred at room temperature under nitrogen overnight. The reaction solution was then evaporated under reduced pressure, and the residue was chromatographed using silica gel (approximately 50 g) and elution with methylene chloride/methanol/ammonium hydroxide [10:1:0.1] to afford the title compound (0.060 g, 0.23 mmol, 22%) as an off-white foam: 1H NMR (DMSO-d6) δ12.14 (br s, NH), 10.46 (s, 1H), 7.14-7.08 (m, 2H), 6.88 (dd, J=1.4 and 7.1 Hz, 1H), 3.11 (br m, 8H), 2.66 (s, 3H); FAB LRMS (m/z, relative intensity) 259 (16), 258 (MH+, 100).

reactant | 4-methyl-1-(2-methyl-1H-indol-4-yl)piperazine | 1.08 mmol, 0.247 g | CN1CCN(CC1)C1=C2C=C(NC2=CC=C1)C | C14H19N3
reactant | oxychloride | 1.04 mmol, 0.16 g | O(Cl)Cl | Cl2O
reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(3-Formyl-2-methyl-1H-indol-4-yl)-4-methylpiperazine | 0.23 mmol, 0.060 g, 22% | C(=O)C1=C(NC2=CC=CC(=C12)N1CCN(CC1)C)C | C15H19N3O
